US06521643B1
A suspension of 3-(3-methylpyridin-2-yl)nitrobenzene (214 mg) in ethanol (5 ml) was hydrogenated over palladium on carbon (10% w/w, 50% wet, 50 mg) under a hydrogen atmosphere for 2 hours. The catalyst was filtered off, and the filtrate was evaporated under reduced pressure to give 3-(3-methylpyridin-2-yl)aniline (184 mg).

reactant | 3-(3-methylpyridin-2-yl)nitrobenzene | 214 mg | CC=1C(=NC=CC1)C=1C=C(C=CC1)[N+](=O)[O-] | C12H10N2O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | 3-(3-methylpyridin-2-yl)aniline | 184 mg | CC=1C(=NC=CC1)C=1C=C(N)C=CC1 | C12H12N2
